US07612114B2
(S)-6-{2-{Ethyl[4-(2-pyrrolidin-1-ylethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (S)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-1-pyrrolidin-1-ylethanone (12 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (8.5 mg) was obtained.

reactant | pivalic acid (S)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 2-chloro-1-pyrrolidin-1-ylethanone | 12 mg | ClCC(=O)N1CCCC1 | C6H10ClNO
product | (S)-6-{2-{Ethyl[4-(2-pyrrolidin-1-ylethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 8.5 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@@H]1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN1CCCC1 | C32H40N2O3
